* Z:\mnt\design.r\spice\examples\ADP2303.asc
V1 IN 0 12
L1 N002 OUT 6.8µ
C1 OUT 0 10µ
C2 N001 N002 100n
R1 OUT N003 69.8K
R2 N003 0 13.3K
D1 0 N002 MBRS340
XU1 IN IN N001 N002 N003 0 NC_01 ADP2302_3 FREQ=0 CSGain=0.12 CL=0.66
Rload OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3.5m startup
.lib ADP2302_3.sub
.backanno
.end
